US07470679B2
4-(3-Phenylisoxazol-5-yl)piperidine
tert-Butyl 4-(3-phenylisoxazol-5-yl)piperidine-1-carboxylate (225 mg, 0.78 mmol) was diluted in dichloromethane (3 mL). Trifluoroacetic acid (3 mL) was added to the mixture. Reaction stirred at room temperature for 1 hour. Mixture was diluted with dichloromethane and then concentrated in vacuo. Residue was treated with aqueous sodium bicarbonate. Mixture was extracted 2× ethyl acetate. Combined extracts were washed 1× water, 1× brine. Organic layer was dried (magnesium sulfate), filtered and concentrated in vacuo. Title compound was obtained as white solid in 76% yield. MS m/e (M+H)+=229.1.

reactant | tert-Butyl 4-(3-phenylisoxazol-5-yl)piperidine-1-carboxylate | 0.78 mmol, 225 mg | C1(=CC=CC=C1)C1=NOC(=C1)C1CCN(CC1)C(=O)OC(C)(C)C | C19H24N2O3
reactant | Trifluoroacetic acid | 3 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | 4-(3-Phenylisoxazol-5-yl)piperidine | 76% yield | C1(=CC=CC=C1)C1=NOC(=C1)C1CCNCC1 | C14H16N2O
